US08183380B2
(1R,5S)-8-Oxa-3-aza-bicyclo[3.2.1]octane-3-carboxylic acid [2-((R)-indan-1-ylamino)-quinolin-6-yl]-amide
The title compound was prepared in accordance with the general method 4 described in example 16 from bis(trichloromethyl) carbonate, 8-oxa-3-aza-bicyclo[3.2.1]octane and (R)—N2-indan-1-yl-quinoline-2,6-diamine; MS: m/e=415.6 (M+H+).

reactant | bis(trichloromethyl) carbonate | C(OC(Cl)(Cl)Cl)(OC(Cl)(Cl)Cl)=O | C3Cl6O3
reactant | 8-oxa-3-aza-bicyclo[3.2.1]octane | C12CNCC(CC1)O2 | C6H11NO
reactant | (R)—N2-indan-1-yl-quinoline-2,6-diamine | [C@H]1(CCC2=CC=CC=C12)NC1=NC2=CC=C(C=C2C=C1)N | C18H17N3
product | (1R,5S)-8-Oxa-3-aza-bicyclo[3.2.1]octane-3-carboxylic acid [2-((R)-indan-1-ylamino)-quinolin-6-yl]-amide | [C@H]1(CCC2=CC=CC=C12)NC1=NC2=CC=C(C=C2C=C1)NC(=O)N1C[C@H]2CC[C@@H](C1)O2 | C25H26N4O2
